US04558140
A solution of sodium hydroxide (22 g, 0.55 mole) in methanol (275 mL) was cooled to 0° and added all at once to a cold (0°) solution of crude, racemic (3aR,4S,5R,6aS)-4-(1-nitroethyl)hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one (91.5 g, 0.43 mole) in methanol (350 mL). The resulting solution was stirred without further cooling for 11/2 hours during which time a solution of concentrated sulfuric acid (65 mL, 1.22 mole) in methanol (350 mL) was prepared by slow addition of the acid to the methanol while stirring and cooling in a dry ice/acetone bath. Both solutions were chilled to (-35°) and the nitronate anion solution as added all at once to the acid solution. This mixture was kept for 11/2 hours during which the color changed from yellow to a pale blue-green. Approximately 500 mL of methanol was stripped off under reduced pressure using a 35° bath and a solution of acetic acid (50 mL) in water (300 mL) was added. Stripping was continued for 11/4 hours (40° bath) during which the remaining solvent was removed. The product was extracted with ethyl acetate. The extract was washed with NaHCO3 solution and with brine, dried over sodium sulfate, and stripped of solvent. The racemic (3aR,4S,5R,6aS)-4-acetylhexahydro-5-methyl-2H-cyclopenta[b]furan-2-one thus obtained was 70.8 g (90.5%) of amber-colored oil. The yield based on racemic 3-methyl-5-oxo-1-cyclopentene-1-acetic acid ethyl ester was 77.8%. A sample for analysis was vacuum distilled giving a colorless liquid. Anal. Found: C, 65.78; H, 7.91.

reactant | sodium hydroxide | 0.55 mole, 22 g | [OH-].[Na+]
reactant | racemic (3aR,4S,5R,6aS)-4-(1-nitroethyl)hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one | 0.43 mole, 91.5 g | [N+](=O)([O-])C(C)C1C(CC2OC(CC21)=O)C | C10H15NO4
reactant | sulfuric acid | 1.22 mole, 65 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitronate | [N+]([O-])([O-])=C
solvent | methanol | 275 mL | CO | CH4O
solvent | methanol | 350 mL | CO | CH4O
solvent | methanol | 350 mL | CO | CH4O
solvent | water | 300 mL | O | H2O
solvent | methanol | 500 mL | CO | CH4O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | racemic (3aR,4S,5R,6aS)-4-acetylhexahydro-5-methyl-2H-cyclopenta[b]furan-2-one | C(C)(=O)C1C(CC2OC(CC21)=O)C | C10H14O3
